US09315475B2
Step 2: Preparation of methyl N-benzyl-O-[tert-butyl(dimethyl)silyl]-D-serinate
To methyl N-benzyl-D-serinate (1 eq.) in CH2Cl2 (0.3 M) at rt were added triethylamine (1 eq) and DMAP (0.05 eq). The reaction mixture was cooled to 0° C. and TBS-Cl (1.1 eq) was added. The reaction mixture was stirred at rt for 16 hrs, water was added and the aqueous layer was extracted with CH2Cl2. The combined organic layers were washed with saturated aqueous NH4Cl, dried over Na2SO4, filtered and concentrated. The crude product was used as such for the next step.

reactant | methyl N-benzyl-D-serinate | 1 eq. | C(C1=CC=CC=C1)N[C@H](CO)C(=O)OC | C11H15NO3
reactant | triethylamine | 1 eq | C(C)N(CC)CC | C6H15N
reactant | TBS-Cl | 1.1 eq | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | CH2Cl2 | 0.3 M | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.05 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl N-benzyl-O-[tert-butyl(dimethyl)silyl]-D-serinate | C(C1=CC=CC=C1)N[C@H](CO[Si](C)(C)C(C)(C)C)C(=O)OC | C17H29NO3Si
